US04511573
Phosphorus oxychloride (3.36 ml) is added dropwise over a period of 20 minutes to dimethylformamide (10.6 g) maintained at 0°-3°. After complete addition a solution of 2-(3-pyridyl)indole (6.50 g) in dimethylformamide (20 ml) is added dropwise over a period of 30 minutes at such a rate so that the reaction temperature does not exceed 10°. The cooling bath is then removed and the viscous solution heated to and maintained at 35°-40° for 1 hour. The reaction mixture is treated with crushed ice (50 g). A solution of sodium hydroxide (24.4 g) in 65 ml of water is added slowly. After the addition the resulting red-orange solution is heated rapidly to reflux and maintained at reflux for about 2 minutes. The solution is allowed to cool to room temperature, then placed in a freezer for 2 days. The resulting precipitate is collected and washed well with water to give an orange solid which is recrystallized from methanol (240 ml) to give 2-(3pyridyl)-indole-3-carboxaldehyde, m.p. 236°-238°.

reactant | Phosphorus oxychloride | 3.36 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(3-pyridyl)indole | 6.50 g | N1=CC(=CC=C1)C=1NC2=CC=CC=C2C1 | C13H10N2
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 10.6 g | CN(C=O)C | C3H7NO
product | 2-(3pyridyl)-indole-3-carboxaldehyde | N1=CC(=CC=C1)C=1NC2=CC=CC=C2C1C=O | C14H10N2O
